US06583135B2
Preparation of 10-(3,5-Difluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Hydrochloride
A mixture of 3-benzyl-10-(3,5-difluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.35 g, 0.90 mmol), 1 N hydrochloric acid (0.9 mL, 0.9 mmol) and Pd/C (10%, 0.5 g) in ethanol (50 mL) was reacted in a manner similar to Example 8 to give 0.14 g of the title compound as a cream-colored solid: mp>267° C. (dec.); 1H NMR (400 MHz, DMSO-d6) δ 11.42, 9.57, 7.37, 7.30-7.25, 7.11-7.07, 6.84, 6.78-6.76, 3.35-3.27, 3.25-3.18, 3.16-3.08, 2.63-2.56; IR (drift) 3259, 2956, 2861, 2811, 2778, 2699, 2641, 2455, 1622, 1591, 1458, 1332, 1113, 985, 749 cm−1; HRMS (FAB) calcd for C18H16F2N2+H: 299.1360, found: 299.1369.

reactant | 3-benzyl-10-(3,5-difluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.90 mmol, 0.35 g | C(C1=CC=CC=C1)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=CC(=CC(=C1)F)F | C25H22F2N2
reactant | hydrochloric acid | 0.9 mmol, 1 N, 0.9 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 10-(3,5-Difluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Hydrochloride | 0.14 g | Cl.FC=1C=C(C=C(C1)F)C=1C=2C3=C(NC2C=CC1)CCNCC3 | InChI=1S/C18H16F2N2.ClH/c19-12-8-11(9-13(20)10-12)14-2-1-3-17-18(14)15-4-6-21-7-5-16(15)22-17;/h1-3,8-10,21-22H,4-7H2;1H
